US04610954
(1) Synthesis of N-(4-carboethoxyphenyl)-N'-(2,2-diethoxyethyl)thiourea
20 g of 4-carboethoxyphenyl isothiocyanate was dissolved in 50 ml of carbon tetrachloride, and 13 g of aminoacetaldehyde diethylacetal was dropwise added thereto in 5 minutes. Then, the resulting solution was stirred at room temperature for 1 hour. 50 ml of carbon tetrachloride was added to the reaction mixture, and crystals precipitated were collected by filtration, washed with 50 ml of carbon tetrachloride, then dried. Yield: 27.5 g (80.9 mol%).

reactant | 4-carboethoxyphenyl isothiocyanate | 20 g | C(=O)(OCC)C1=CC=C(C=C1)N=C=S | C10H9NO2S
reactant | aminoacetaldehyde diethylacetal | 13 g | C(C)OC(CN)OCC | C6H15NO2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-(4-carboethoxyphenyl)-N'-(2,2-diethoxyethyl)thiourea | C(=O)(OCC)C1=CC=C(C=C1)NC(=S)NCC(OCC)OCC | C16H24N2O4S
